**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET CPM3-1200-0075A Spice Library
****	Version 1    Date: 08-02-2019
****	
***********************************************************
****	Revision record
****	Version 1	initial Release
****	
*********************************************************************************
****Parasitics Excluded
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************


.subckt CPM3-1200-0075A d g s Tj
.param Rgint = 9

xgmos	d3 d1 g1 s1 Tj gmos_CPM3-1200-0075A


RS		s	s1	1u

R_g 		g1	g2	{Rgint}
RG		g	g2	1u

Rd		d	d3	1u


Ed	Id	0	value {I(Vdrain_s)}
Rdd	Id	0	1E6

vdrain_s	d3	d1	0

Gheat		0	Tj	value = {abs((V(d1,s)*v(Id)))+abs((V(g1,g2)*V(g1,g2)/Rgint))}

xCGD		d3	g1	cgdmos_CPM3-1200-0075A
CGS		g1	s1	1388p
D1		s1	d1	bodydiode_CPM3-1200-0075A
xCDS		dk	s1	cds_CPM3-1200-0075A
R_ds		d3	dk	100

.ends CPM3-1200-0075A

*****************************************

.subckt gmos_CPM3-1200-0075A d3 d1 g1 s1 Tj

e1		NET1	0	Value {Limit(((997.8n*V(Tj)**3-167.2u*V(Tj)**2+2.679m*V(Tj)-97.69m)*V(gk,s1)**4+
+				(-48.54u*V(Tj)**3+7.754m*V(Tj)**2-69.85m*V(Tj)+2.697)*V(gk,s1)**3+
+				(839.1u*V(Tj)**3-0.1254*V(Tj)**2-0.1785*V(Tj)+1.003)*V(gk,s1)**2+
+				(-6.049m*V(Tj)**3+0.8158*V(Tj)**2+15.49*V(Tj)-400.7)*v(gk,s1)+
+				(15.16m*V(Tj)**3-1.738*V(Tj)**2-88.88*V(Tj)+3393))/1000,0.01,15)
+					}
R_a		NET1	0 	1E6

e2		NET2	0	Value {15.35m*V(gk,s1)+371.85m}
R_B		NET2	0 	1E6

e3		NET3	0	Value {8u*(V(Tj)**2)-4.7m*V(Tj)+2.8224}
R_C		NET3	0 	1E6


e4		NET4	0	Value {92.345n*V(Tj)**2-35.295u*V(Tj)+4.792m}
R_d		NET4	0 	1E6

e5		NET5   0	Value {
+					if (V(gk,s1)>11 ,
+				((87.641n*V(Tj)**3+46.001u*V(Tj)**2-15.03m*V(Tj)-0.13539)*V(gk,s1)**3+
+				(-4.7725u*V(Tj)**3-2.0118m*V(Tj)**2+0.69225*V(Tj)+13.826)*V(gk,s1)**2+
+				(86.016u*V(Tj)**3+27.876m*V(Tj)**2-10.322*V(Tj)-366.33)*v(gk,s1)+
+				(-496.9u*V(Tj)**3-0.12272*V(Tj)**2+49.167*V(Tj)+3084.3))/10000
+					,
+					if (V(gk,s)<=11 & V(gk,s)>9,
+				((8.3091u*V(Tj)**3+1.2517m*V(Tj)**2-0.30635*V(Tj)-4.25318)*(V(gk,s1)**2)+
+				(-166.98u*V(Tj)**3-21.874m*V(Tj)**2+4.7236*V(Tj)+53.187)*v(gk,s1)+
+				(821.34u*V(Tj)**3+90.986m*V(Tj)**2-15.564*V(Tj)+475.4))/10000
+					,
+				((-8.337u*V(Tj)**3+1.507m*V(Tj)**2-94.69m*V(Tj)+2.806)*(V(gk,s1)**2)+
+				(92.64u*V(Tj)**3-16.24m*V(Tj)**2+0.5932*V(Tj)-61.12)*v(gk,s1)+
+				(-166.9u*V(Tj)**3+19.64m*V(Tj)**2+4.464*V(Tj)+932.7))/10000
+			)
+			)
+			}
R_e		NET5	0 	1E6

e10		NET10   0	Value {Limit(((-94.87u*V(Tj)**2+25.49m*V(Tj)-0.8726)*(V(gk,s1)**3)+
+					(3.038m*V(Tj)**2-0.8788*V(Tj)+35.82)*(V(gk,s1)**2)+
+					(-29.94m*V(Tj)**2+9.729*V(Tj)-501.7)*v(gk,s1)+
+					(85.19m*V(Tj)**2-34.18*V(Tj)+2452))/1000,0.001,3.7)
+				      }
R_K		NET10	0	1E6

.param p10  = 0.0011
.param p11 = -8
.param p12 = 19


e_p8	P8	0	Value {Limit(((95.93n*V(Tj)**3-17.89u*V(Tj)**2+8.478u*V(Tj)+35.59m)*(V(gk,s1)**3)+
+				(-4.135u*V(Tj)**3+831u*V(Tj)**2-8.584m*V(Tj)-2.647)*(V(gk,s1)**2)+
+				(54.29u*V(Tj)**3-11.48m*V(Tj)**2+0.1753*V(Tj)+51.4)*v(gk,s1)+
+				(-216u*V(Tj)**3+46.84m*V(Tj)**2-0.7812*V(Tj)-210.8))/1000,0.001,0.2)
+					}
R_R	P8	0 	1E6

R100 gk s1	1E6
E100 gk s1 	value {limit(V(g1,s1),p11,p12)}


********************************
G1 d1 s1 value {
+	if(V(s1,d3)<0,
+		0
+		,
+		if (V(gk,s1)<V(NET3) ,
+		-((0.035)*(v(gk,s1)-V(NET3)))*(-(1+p10*v(s1,d3))*0.008)*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(0.854*v(s1,d3)))))**2))
+		,
*+		0
+		-((((v(NET5)+v(NET4))*(v(gk,s1)-V(NET3))))*(1+v(P8)*v(s1,d3))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(s1,d3)*((1+exp(-v(NET10)*v(s1,d3)))**v(NET1))))))**2)))
+		)
+			)
+			}
G2 d1 s1 value {
+	if(V(d3,s1)<0,
+		0
+		,
+		if (V(gk,s1)<V(NET3) ,
+		((0.035)*(v(gk,s1)-V(NET3)))*(-(1+p10*v(d3,s1))*0.008)*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(0.854*v(d3,s1)))))**2))
+		,
+		((v(NET5)*(v(gk,s1)-V(NET3))))*(1+v(P8)*v(d3,s1))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(d3,s1)*((1+exp(-v(NET10)*v(d3,s1)))**v(NET1))))))**2))
+		)
+			)
+			}


.ends gmos_CPM3-1200-0075A

****************************************

.subckt cgdmos_CPM3-1200-0075A d3 g1
.param k1=555p	
.param k2=0.565		
.param ka=90	
.param kb=0.3	
.param kc=6	

G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,600))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1E-4
.ends cgdmos_CPM3-1200-0075A


.subckt cds_CPM3-1200-0075A dk s1

.param Cjo = 1108p
.param Vj  = 4.5
.param M   = 0.63

G12 d1 s1 value {
+	if(V(dk,s1)>0,
+		(Cjo/(1+(limit(v(dk,s1),0,460)/Vj)**M))*ddt(v(dk,s1));
+		,
+		0
+			)
+			}

R_CDS d1 dk 1E-4

.ends cds_CPM3-1200-0075A

****************************************
.model bodydiode_CPM3-1200-0075A d(is=100n bv=1590 EG=5.4 n=9.45 
+	rs=0.048 trs1=-650u  trs2=-1.2u Tnom=25
+	tt=3.0n ibv=500u Xti=10 level=1)